US06521643B1
To a solution of dimethylamine in tetrahydrofuran (2M, 20 ml) was added 2-methyl-4-nitropyridine N-oxide (3.08 g), and the mixture was stirred at 60° C. for 8 hours. The residue was evaporated under reduced pressure and purified by column chromatography (silica gel 75 g, 0 to 10% methanol in dichloromethane) to give 4-dimethylamino-2-methylpyridine N-oxide (1.76 g).

reactant | dimethylamine | CNC | C2H7N
reactant | 2-methyl-4-nitropyridine N-oxide | 3.08 g | CC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H6N2O3
reactant | tetrahydrofuran | 2M, 20 ml | O1CCCC1 | C4H8O
product | 4-dimethylamino-2-methylpyridine N-oxide | 1.76 g | CN(C1=CC(=[N+](C=C1)[O-])C)C | C8H12N2O
